US04762942
Phosphorodichloridic acid, 3-(bromomethyl)phenyl ester
To mixture of 17 g of m-bromomethylphenol in 150 ml of carbon tetrachloride under argon was added a solution of 25.5 g of phosphorous oxychloride in 25 ml of carbon tetrachloride. The solution was cooled in a water bath and a solution of 9.18 g of triethylamine in 35 ml of carbon tetrachloride was added dropwise with stirring over 40 minutes. This mixture was stirred in the water bath for 1 hour then overnight at room temperature, filtered through diatomaceous earth and washed with carbon tetrachloride. The mother liquor was taken to dryness giving 23-29 g of the desired compound as a pale yellow oil.

reactant | m-bromomethylphenol | 17 g | BrCC=1C=C(C=CC1)O | C7H7BrO
reactant | phosphorous oxychloride | 25.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 9.18 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 35 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Phosphorodichloridic acid, 3-(bromomethyl)phenyl ester | 23-29 g | P(OC1=CC(=CC=C1)CBr)(=O)(Cl)Cl | C7H6BrCl2O2P
